### PR TITLE
[Merged by Bors] - feat(Algebra/Lie): prove derivations are inner in finite-dimensional Killing Lie algebra

### PR DESCRIPTION
**Pull request by frederic-marbach**
This finishes the proof that all derivations in a finite-dimensional Lie algebra with non-degenerate Killing form are inner derivations, a project discussed in [this thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Derivations.20on.20Lie.20algebras) with @ocfnash.

---

I am particularly open to design remarks or suggestions. More specifically, here are some points of which I doubt:
- I took the liberty of introducing local notations to ease my mind,
- I stated intermediary lemmas which might be useless outside of this file,
- I left a comment in the `Killing.lean` file for a hacky coercion I could not figure my way out otherwise.

### CODE REVIEW

**Comment by ocfnash** [comment]
@frederic-marbach Thanks for doing this. I added [a commit](https://github.com/leanprover-community/mathlib4/pull/12250/commits/3893a6c56db943c5a26ab3a8797e5771b0015fc2) because I realised that new lemma you proposed `LieIdeal.killingCompl_eq_orthogonalBilin` should be true by definition (I also renamed it to `LieIdeal.toSubmodule_killingCompl`).

I'm out of time for today so I'll have to finish reviewing tomorrow.

File: Mathlib/Algebra/Lie/Killing.lean [hunk 1]
```diff
@@ -76,6 +76,10 @@ lemma traceForm_apply_apply (x y : L) :
 lemma traceForm_comm (x y : L) : traceForm R L M x y = traceForm R L M y x :=
   LinearMap.trace_mul_comm R (φ x) (φ y)
 
+lemma traceForm_isSymm : LinearMap.IsSymm (traceForm R L M) := by
+  intro x y
+  rw [RingHom.id_apply, LieModule.traceForm_comm]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Killing.lean:81]: This is actually true by definition:
```suggestion
lemma traceForm_isSymm : LinearMap.IsSymm (traceForm R L M) := LieModule.traceForm_comm R L M
```
which makes me think we should drop `traceForm_comm` and just use this new `traceForm_isSymm` everywhere instead. (Not necessary as part of these changes.)

File: Mathlib/Algebra/Lie/Derivation/Semisimple.lean [hunk 2]
```diff
@@ -0,0 +1,100 @@
...
+lemma ad_injective : Function.Injective (ad R L) := by
+  apply (LieHom.ker_eq_bot (ad R L)).mp
+  rw [ad_ker_eq_center, LieAlgebra.center_eq_bot_of_semisimple]
+
+/-- The Lie algebra isomorphism between a finite-dimensional Killing Lie algebra and its adjoint
+representation. -/
+noncomputable def equiv_rangeAd : L ≃ₗ⁅R⁆ (ad R L).idealRange := by
+  have h := LieEquiv.ofInjective (ad R L) (ad_injective R L)
+  rw [← ad_isIdealMorphism] at h
+  exact h
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Semisimple.lean:52]: I suggest:
```suggestion
lemma injective_ad_of_center_eq_bot (h : LieAlgebra.center R L = ⊥) :
    Function.Injective (ad R L) := by
  rw [← LieHom.ker_eq_bot, ad_ker_eq_center, h]

noncomputable def equivRangeAdOfCenterEqBot (h : LieAlgebra.center R L = ⊥) :
    L ≃ₗ⁅R⁆ (ad R L).idealRange :=
  letI e₁ := LieEquiv.ofInjective (ad R L) (injective_ad_of_center_eq_bot h)
  letI e₂ := LieEquiv.ofEq (ad R L).range (ad R L).idealRange (by ext; simp [mem_ad_idealRange_iff])
  e₁.trans e₂
```
The following minor points are the reasons for my suggestion:

1. These results hold for any coefficients
2. It is likely that one day we'll want to use these for Lie algebras with trivial center that do not have non-degenerate Killing form
3. We should follow the snake / camel -case conventions of our [naming conventions](https://leanprover-community.github.io/contribute/naming.html#general-conventions) (even though I don't really like these)
4. You should try never to build data using tactic mode because it produces awkward terms: tactic mode is only for `Prop` (where we don't care what the term is). The `def` here is data. More importantly because you have used an opaque `have` rather than a transparent `let`, we could never prove anything about this `def` (e.g., its behaviour when applied to an element): we would know only that it exists.

File: Mathlib/Algebra/Lie/Killing.lean (hunk 1 above)
Comment (frederic-marbach) [reply Mathlib/Algebra/Lie/Killing.lean]: Ok. I will prepare a dedicated commit once we merge this one.

**Comment by ocfnash** [comment]
I thought about this PR quite a bit today and I have some remarks:

1. The local notation is great: IMHO we underuse this feature.
2. The lemmas about `𝕀ᗮ` are not really so desirable because ultimately you prove this is `⊥` (I recognise you allude to this above)
3. Some of the results are true more generally, e.g., without assuming `[LieAlgebra.IsKilling R L]` so it would be nice to extract these
4. I think it's better to have lemmas which talk about `(ad R L).range` rather than `(ad R L).idealRange` unless the statement actually needs an ideal, since its a simpler object

With all that in mind I tried to work out what was the core result and I learned (from your code!) that seems to be that if `D` is orthogonal to `(ad R L).range` then so is `ad R L (D x)` for any `x`. So I extracted this lemma (which doesn't require the assumption `[LieAlgebra.IsKilling R L]`) and then after adding a bit of API to `LinearMap.BilinForm` things seemed to work out quite nicely. I've pushed a commit (and merged master) so that the following suggestion should work:

**Comment by ocfnash** [comment]
So here's what I suggest:
```lean
/-- A local notation for the set of (Lie) derivations on `L`. -/
local notation "𝔻" => (LieDerivation R L L)

-- /-- A local notation for the ideal range of `ad`. -/
-- local notation "𝕀" => LieHom.idealRange (ad R L)

-- /-- A local notation for the Killing complement of the ideal range of `ad`. -/
-- local notation "𝕀ᗮ" => LieIdeal.killingCompl R 𝔻 𝕀

lemma killingForm_restrict_range_ad :
    (killingForm R 𝔻).restrict (ad R L).range = killingForm R (ad R L).range := by
  rw [← (ad_isIdealMorphism R L).eq, ← LieIdeal.killingForm_eq]
  rfl

variable {R L}

lemma ad_mem_orthogonal_of_mem_orthogonal
    {D : LieDerivation R L L} (hD : D ∈ (killingForm R 𝔻).orthogonal (ad R L).range) (x : L) :
    ad R L (D x) ∈ (killingForm R 𝔻).orthogonal (ad R L).range := by
  have : (killingForm R 𝔻).orthogonal (ad R L).range = (ad R L).idealRange.killingCompl := by
    simp [← (ad_isIdealMorphism R L).eq]
  rw [this] at hD ⊢
  rw [← lie_der_ad_eq_ad_der]
  exact lie_mem_left _ _ (ad R L).idealRange.killingCompl _ _ hD

-- This is really the key result
lemma add_mem_ker_killingForm_ad_range_of_mem_orthogonal
    {D : LieDerivation R L L} (hD : D ∈ (killingForm R 𝔻).orthogonal (ad R L).range) (x : L) :
    ad R L (D x) ∈ (LinearMap.ker <| killingForm R (ad R L).range).map (ad R L).range.subtype := by
  rw [← killingForm_restrict_range_ad]
  exact LinearMap.BilinForm.inf_orthogonal_self_le_ker_restrict
    (LieModule.traceForm_isSymm R 𝔻 𝔻).isRefl ⟨by simp, ad_mem_orthogonal_of_mem_orthogonal hD x⟩

variable (R L)
variable [LieAlgebra.IsKilling R L]

@[simp] lemma ad_apply_eq_zero_iff (x : L) : ad R L x = 0 ↔ x = 0 := by
  refine ⟨fun h ↦ ?_, fun h ↦ by simp [h]⟩
  rwa [← LieHom.mem_ker, ad_ker_eq_center, LieAlgebra.center_eq_bot_of_semisimple,
    LieSubmodule.mem_bot] at h

instance instIsKilling_range_ad : LieAlgebra.IsKilling R (ad R L).range :=
  (LieEquiv.ofInjective (ad R L) (injective_ad_of_center_eq_bot <| by simp)).isKilling

lemma killingForm_restrict_range_ad_nondegenerate :
    ((killingForm R 𝔻).restrict (ad R L).range).Nondegenerate :=
  killingForm_restrict_range_ad R L ▸ LieAlgebra.IsKilling.killingForm_nondegenerate R _

lemma range_ad_eq_top : (ad R L).range = ⊤ := by
  rw [← LieSubalgebra.coe_to_submodule_eq_iff]
  apply LinearMap.BilinForm.eq_top_of_restrict_nondegenerate_of_orthogonal_eq_bot
    (LieModule.traceForm_isSymm R 𝔻 𝔻).isRefl (killingForm_restrict_range_ad_nondegenerate R L)
  refine (Submodule.eq_bot_iff _).mpr fun D hD ↦ ext fun x ↦ ?_
  simpa using add_mem_ker_killingForm_ad_range_of_mem_orthogonal hD x

lemma exists_eq_ad (D : 𝔻) : ∃ x, ad R L x = D := by
  change D ∈ (ad R L).range
  rw [range_ad_eq_top R L]
  exact Submodule.mem_top
```
I've been too lazy to add comments or to use the local notation though both would be good.

What do you think?

**Comment by frederic-marbach** [comment]
I applied your suggestions, with local notations and (some) comments.

I have a few questions:
- You added `ad_apply_eq_zero_iff ` (in `Semisimple.lean`), which looks a lot like `injective_ad_of_center_eq_bot` (in `AdjointAction.lean`). Should we keep both?
- I had added `equivRangeAdOfCenterEqBot` (in `AdjointAction.lean`), but your solution does not use it anymore, should we keep it?
- Eventually, I had named the file `Semisimple.lean`, but should it be `Killing.lean`?

**Comment by ocfnash** [comment]
>     * You added `ad_apply_eq_zero_iff ` (in `Semisimple.lean`), which looks a lot like `injective_ad_of_center_eq_bot` (in `AdjointAction.lean`). Should we keep both?

Yes, is useful as input to lemmas that demand this hypothesis and `ad_apply_eq_zero_iff `has two several features: 

- It is a useful `simp` lemma
- It is useful for rewriting
- It picks up the trivial center condition via typeclasses

It could be generalised if we had a typeclass `LieAlgebra.HasTrivialCenter` (or something) but I'm not sure if we need this and anyway, that's out of scope for this PR.

>     * I had added `equivRangeAdOfCenterEqBot` (in `AdjointAction.lean`), but your solution does not use it anymore, should we keep it?

Good point, I think we should drop this now.

>     * Eventually, I had named the file `Semisimple.lean`, but should it be `Killing.lean`?

Yes, probably `Killing.lean` is a better name

**Review by ocfnash — APPROVED** [review]
Thanks for doing this, I learned the proof from your work!

I think this is ready to be merged but I'm going to ask for another reviewer to take a look because the PR now contains a mixture of your work and mine.

File: Mathlib/Algebra/Lie/Derivation/Semisimple.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+# Derivations of finite dimensional Killing Lie algebras
+
+This file establishes that all derivations of finite-dimensional Killing Lie algebras are inner.
+
+## Main statements
+
+- `LieDerivation.ad_mem_orthogonal_of_mem_orthogonal`: if a derivation `D` is in the Killing
+orthogonal of the range of the adjoint action, then, for any `x : L`, `ad (D x)` is also in this
+orthogonal.
+- `LieDerivation.Killing.rangeAd_eq_top`: in a finite-dimensional Lie algebra with non-degenerate
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/Semisimple.lean:20]:
```suggestion
- `LieDerivation.Killing.range_ad_eq_top`: in a finite-dimensional Lie algebra with non-degenerate
```

**Comment by frederic-marbach** [comment]
Thanks. I fixed the typo, renamed the file, and removed my useless lemma.

File: Mathlib/Algebra/Lie/Derivation/AdjointAction.lean [hunk 4]
```diff
@@ -25,7 +25,9 @@ values in the endormophisms of `L`.
 - `LieDerivation.ad_ker_eq_center`: the kernel of the adjoint action is the center of `L`,
 - `LieDerivation.lie_der_ad_eq_ad_der`: the commutator of a derivation `D` and `ad x` is `ad (D x)`,
 - `LieDerivation.ad_isIdealMorphism`: the range of the adjoint action is an ideal of the
-derivations.
+derivations,
+- `LieDerivation.equivRangeAdOfCenterEqBot`: the Lie algebra isomorphism between a Lie algebra with
+trivial center and the ideal range of the adjoint action.
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Derivation/AdjointAction.lean:30]:
```suggestion
```

File: Mathlib/Algebra/Lie/Derivation/AdjointAction.lean [hunk 5]
```diff
@@ -25,7 +25,7 @@ values in the endormophisms of `L`.
 - `LieDerivation.ad_ker_eq_center`: the kernel of the adjoint action is the center of `L`,
 - `LieDerivation.lie_der_ad_eq_ad_der`: the commutator of a derivation `D` and `ad x` is `ad (D x)`,
 - `LieDerivation.ad_isIdealMorphism`: the range of the adjoint action is an ideal of the
-derivations.
+derivations,
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Derivation/AdjointAction.lean:28]:
```suggestion
derivations.
```

File: Mathlib/Algebra/Lie/Derivation/Killing.lean [hunk 6]
```diff
@@ -0,0 +1,95 @@
...
+instance instIsKilling_range_ad : LieAlgebra.IsKilling R 𝕀 :=
+  (LieEquiv.ofInjective (ad R L) (injective_ad_of_center_eq_bot <| by simp)).isKilling
+
+/-- The restriction of the Killing form of a finite-dimensional Killing Lie algebra to the range of
+the adjoint action is nondegenerate. -/
+lemma killingForm_restrict_range_ad_nondegenerate : ((killingForm R 𝔻).restrict 𝕀).Nondegenerate :=
+  killingForm_restrict_range_ad R L ▸ LieAlgebra.IsKilling.killingForm_nondegenerate R _
+
+/-- The range of the adjoint action on a finite-dimensional Killing Lie algebra is full. -/
+lemma range_ad_eq_top : 𝕀 = ⊤ := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Derivation/Killing.lean:81]:
```suggestion
@[simp]
lemma range_ad_eq_top : 𝕀 = ⊤ := by
```
This seems like a good simp lemma to me.

**Review by jcommelin — APPROVED** [review]
Thanks. Very nice work! Two mini comments

bors d+
